US06680329B2
1.7 g (4.4 mmol) of O-(benzotriazol-1-yl)-N,N,N,N′-tetramethyluronium hexafluorophosphate (HBTU) are added portionwise, at 0° C. under nitrogen, to a solution of 1.73 g (4.0 mmol) of (S)-α-[[(1,1-dimethylethoxy)carbonyl]amino]-1-[(phenylmethoxy)carbonyl]-piperidine-4-pentanoic acid, 0.66 g (4.4 mmol) of 4-ethylpiperidine hydrochloride and 1.8 ml (10.4 mmol) of N,N-diisopropylethylamine (DIEA) in dichloromethane. The reaction mixture is allowed to warm slowly to room temperature and the reaction is continued for 18 hours. The reaction mixture is then taken up in 200 ml of ethyl acetate and is washed with 100 ml of 1N hydrochloric acid solution and then with 100 ml of saturated sodium hydrogen carbonate solution and with 100 ml of saturated sodium chloride solution. The resulting product is dried over sodium sulphate and is filtered and then concentrated. The residue obtained is purified by chromatography on a column of silica gel, eluting under pressure with a 4/6 ethyl acetate/cyclohexane mixture. 2 g of phenylmethyl (S)-4-[4-[[(1,1-dimethylethoxy)carbonyl]amino]-5-(4-ethylpiperid-1-yl)-5-oxopentyl]piperidine-1-carboxylate are obtained in the form of a viscous oil.

reactant | (S)-α-[[(1,1-dimethylethoxy)carbonyl]amino]-1-[(phenylmethoxy)carbonyl]-piperidine-4-pentanoic acid | 4.0 mmol, 1.73 g | CC(C)(OC(=O)N[C@H](C(=O)O)CCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C23H34N2O6
reactant | 4-ethylpiperidine hydrochloride | 4.4 mmol, 0.66 g | Cl.C(C)C1CCNCC1
reactant | N,N-diisopropylethylamine | 10.4 mmol, 1.8 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | phenylmethyl (S)-4-[4-[[(1,1-dimethylethoxy)carbonyl]amino]-5-(4-ethylpiperid-1-yl)-5-oxopentyl]piperidine-1-carboxylate | 2 g, Yield (%)=95 | CC(C)(OC(=O)N[C@@H](CCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)N1CCC(CC1)CC)C | C30H47N3O5
